US04761415
Methyl chloroacetate (8.8 ml., 0.10 mole) was added to a solution of N-methylpiperazine (24.4. ml., 0.22 mole) in ethyl acetate (140 ml.) and the mixture was stirred for 17 hours. The reaction mixture was filtered and the solvent was removed under vacuum. The resulting oil was dissolved in methylene chloride-methanol (9:1) and purified by flash chromatography (silica) to give 2-(4-methyl-1-piperazinyl)acetic acid, methyl ester as an oil (16.3 g, 95%).

reactant | Methyl chloroacetate | 0.10 mole, 8.8 ml | ClCC(=O)OC | C3H5ClO2
reactant | N-methylpiperazine | 0.22 mole | CN1CCNCC1 | C5H12N2
solvent | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-methyl-1-piperazinyl)acetic acid, methyl ester | 16.3 g, 95% | CN1CCN(CC1)CC(=O)OC | C8H16N2O2
